US06852731B2
Ethyl 7-hydroxy-2-(hydroxymethyl)-3-methylthieno[3,2-b]pyridine-6-carboxylate
A suspension of ethyl 2-formyl-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (Preparation 3)(1.50 g, 5.66 mmol) in 1:1 CH2Cl2:MeOH (15 mL) was chilled in an ice bath before the addition of sodium borohydride (0.214 g, 5.66 mmol). The reaction was stirred at 0° C. for one hour and then quenched by the addition of water (30 mL). While continuing to chill in an ice bath, the mixture was adjusted to pH 4 by the careful addition of 1 N HCl. The resulting thick mixture was stirred at 0° C. for one hour before filtering. The collected solid was washed with water and dried in vacuo, affording the title compound (0.90 g) as an off-white solid. The filtrate was concentrated in vacuo to a volume of about 50 mL, more water was added, and the mixture was again filtered after chilling in ice, giving an additional 0.29 g of the title product.

reactant | ethyl 2-formyl-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 5.66 mmol, 1.50 g | C(=O)C1=C(C=2NC=C(C(C2S1)=O)C(=O)OCC)C | C12H11NO4S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | sodium borohydride | 5.66 mmol, 0.214 g | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | Ethyl 7-hydroxy-2-(hydroxymethyl)-3-methylthieno[3,2-b]pyridine-6-carboxylate | 0.90 g | OC1=C2C(=NC=C1C(=O)OCC)C(=C(S2)CO)C | C12H13NO4S
